US07230022B2
Part H: Preparation of N-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-N′-[(3aRS,4RS,6aSR)-octahydrocyclopenta[c]-pyrrol-4-yl]urea
N-[3-Ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-N′-[(3aRS,4RS,6aSR)-2-trityloctahydrocyclo-penta[c]pyrrol-4-yl]urea (310 mg, 518 μmol) was dissolved in trifluoroacetic acid (5 mL) to provide a bright yellow solution. This was treated dropwise with water (5 mL) to provide a pale yellow slurry. After 2 hours, the mixture was concentrated under vacuum. The residue was partitioned between ethyl acetate and 1.0 N aqueous hydrochloric acid. The aqueous phase was washed with additional ethyl acetate, and then made strongly basic with 50% aqueous sodium hydroxide. The resulting mixture was extracted three times with ethyl acetate, and these organic phases were combined, dried over sodium sulfate, and concentrated under vacuum to provide a white glass (167 mg, 90%). NMR (300 MHz, CDCl3) δ7.71 (s, 1H), 7.69 (s, 1H), 7.29 (s, 1H), 7.18 (s, 1H), 6.49 (d, J=8 Hz, 1H), 4.27 (m, 1H), 4.20 (s, 3H), 2.97 (m, 2H), 2.8-2.6 (m, 6H), 1.90 (m, 1H), 1.70 (m, 2H), 1.36 (m, 1H), 1.24 (t, J=7 Hz, 3H).

reactant | N-[3-Ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-N′-[(3aRS,4RS,6aSR)-2-trityloctahydrocyclo-penta[c]pyrrol-4-yl]urea | 518 μmol, 310 mg | C(C)C=1C=C(C=C(C1)C1=NN=NN1C)NC(=O)NC1CCC2CN(CC21)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C37H39N7O
reactant | water | 5 mL | O | H2O
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-N′-[(3aRS,4RS,6aSR)-octahydrocyclopenta[c]-pyrrol-4-yl]urea | 167 mg, 90% | C(C)C=1C=C(C=C(C1)C1=NN=NN1C)NC(=O)NC1CCC2CNCC21 | C18H25N7O
